US03987052
In the manner given in Example 2, 9-acetylamino-1,3-dihydro-5-(p-cyanophenyl)-2H-1,4-benzodiazepine-2-thione is heated in ethanol with propionic acid hydrazide and the resulting product heated to 250° C. to give 10-(acetylamino)-1-ethyl-6-(p-cyanophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 9-acetylamino-1,3-dihydro-5-(p-cyanophenyl)-2H-1,4-benzodiazepine-2-thione | C(C)(=O)NC1=CC=CC=2C(=NCC(NC21)=S)C2=CC=C(C=C2)C#N | C18H14N4OS
reactant | propionic acid hydrazide | C(CC)(=O)NN | C3H8N2O
solvent | ethanol | C(C)O | C2H6O
product | 10-(acetylamino)-1-ethyl-6-(p-cyanophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | C(C)(=O)NC1=CC=CC=2C(=NCC=3N(C21)C(=NN3)CC)C3=CC=C(C=C3)C#N | C21H18N6O
